*---------------------------------
* Parameters and models
*---------------------------------
.param SUPPLY=5.0
.temp 70
.model n1 nmos level=1
.model p1 pmos level=1
*--------------------------------
* Simulation netlist
*--------------------------------
Vdd vdd gnd 'SUPPLY'

M1 uno vdd gnd gnd n1 W=100u L=50u
M2 dos vdd uno gnd n1 W=100u L=50u
M3 dos vdd vdd gnd n1 W= 100u L=50u
*-------------------------------
* Stimulus
*-------------------------------

.trans 1ps 800ps

.end
